US05026856
The procedure of Reference Example 6-(3) was followed using 12.8 g of 2-(p-toluenesulfonyl)-5-bromoisoindoline, 12 g of phenol, 160 ml of 48% hydrobromic acid, and 30 ml of propionic acid. Purification of the crude product by vacuum distillation gave 2.5 g of 5-bromoisoindoline.

reactant | 2-(p-toluenesulfonyl)-5-bromoisoindoline | 12.8 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=CC=C(C=C2C1)Br)C | C15H14BrNO2S
reactant | phenol | 12 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | 160 ml | Br | BrH
solvent | propionic acid | 30 ml | C(CC)(=O)O | C3H6O2
product | 5-bromoisoindoline | 2.5 g | BrC=1C=C2CNCC2=CC1 | C8H8BrN
